US05773624
A solution of methyl 2-fluoromethoxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl)-acetate (anti-isomer) (1.17 g, 5 mmol) in 99% formic acid (2.34 g, 51 mmol) was reacted at 35° C. for 90 hrs. The reaction mixture was cooled to below 10° C. to separate crystals, which were collected by filtration, washed with methanol and dried to give methyl 2-fluoromethoxyimino-2-(5-formamido-1,2,4-thiadiazole-3-yl)-acetate (syn-isomer) (434 mg). The crystals thereof (100 mg) were further obtained from the mother liquor. (Yield: 39.6%).

reactant | methyl 2-fluoromethoxyimino-2-(5-amino-1,2,4-thiadiazole-3-yl)-acetate | 5 mmol, 1.17 g | FCON=C(C(=O)OC)C1=NSC(=N1)N | C6H7FN4O3S
reactant | formic acid | 51 mmol, 2.34 g | C(=O)O | CH2O2
product | methyl 2-fluoromethoxyimino-2-(5-formamido-1,2,4-thiadiazole-3-yl)-acetate | 434 mg, Yield: 39.6% | FCON=C(C(=O)OC)C1=NSC(=N1)NC=O | C7H7FN4O4S
